US04789745
2-(3-Pyridinyl)ethanol
A round-bottomed flask equipped with a magnetic stirring bar is charged with 13.9 g (0.08 mol) of (3-pyridinyl)acetic acid, hydrochloride salt (Aldrich Chemical Co.) and 400 ml of tetrahydrofuran (THF) under a nitrogen atmoshphere. To this solution lithium aluminum hydride (6.0 g, 0.16 mol) is added at room temperature for 24 hr. Saturated aqueous sodium sulfate is then added dropwise until the mixture becomes white. The solution is dried over anhydrous sodium sulfate. After filtration and concentration the resulting yellow oil is purified by 324 g of HPLC grade silica gel, eluting with ethyl acetate-hexane-ethanol (10:1:1) and collecting 40 ml fractions. Fractions 21-43 homogeneous on TLC are combined and concentrated in vacuo to give a light yellow oil (3.4 g, 34%).

reactant | (3-pyridinyl)acetic acid, hydrochloride salt | 0.08 mol, 13.9 g | Cl.N1=CC(=CC=C1)CC(=O)O
reactant | lithium aluminum hydride | 0.16 mol, 6.0 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
product | 2-(3-Pyridinyl)ethanol | 3.4 g, 34% | N1=CC(=CC=C1)CCO | C7H9NO
